### PR TITLE
[Merged by Bors] - feat(Lie/Derivation): general Leibniz rule for Lie derivatives

### PR DESCRIPTION
**Pull request by callesonne**
This PR adds the general Leibniz rule for Lie derivatives

---

- [x] depends on: #16448

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Intervals.lean [hunk 1]
```diff
@@ -99,6 +99,11 @@ theorem prod_Ico_add [OrderedCancelAddCommMonoid α] [ExistsAddOfLE α] [Locally
   convert prod_Ico_add' f a b c using 2
   rw [add_comm]
 
+@[to_additive]
+theorem prod_Ico_eq_add_sub (f : ℕ → M) (a b c : ℕ) :
+    (∏ x ∈ Ico a b, f x) = ∏ x ∈ Ico (a + c) (b + c), f (x - c) := by
```
Comment (ocfnash) [inline Mathlib/Algebra/BigOperators/Intervals.lean:104]: I think it's worth generalising slightly (e.g., to cover `α := ℤ`). I'd also flip the two sides and add `simp`. So maybe something like:
```suggestion
@[to_additive, simp]
theorem prod_Ico_add_right_sub_eq [OrderedCancelAddCommMonoid α] [ExistsAddOfLE α] [LocallyFiniteOrder α]
    [Sub α] [OrderedSub α] (a b c : α) :
    ∏ x ∈ Ico (a + c) (b + c), f (x - c) = ∏ x ∈ Ico a b, f x := by
```

File: Mathlib/Algebra/BigOperators/Intervals.lean [hunk 2]
```diff
@@ -138,6 +143,11 @@ theorem prod_range_mul_prod_Ico (f : ℕ → M) {m n : ℕ} (h : m ≤ n) :
     ((∏ k ∈ range m, f k) * ∏ k ∈ Ico m n, f k) = ∏ k ∈ range n, f k :=
   Nat.Ico_zero_eq_range ▸ Nat.Ico_zero_eq_range ▸ prod_Ico_consecutive f m.zero_le h
 
+@[to_additive]
+theorem prod_range_eq_add_Ico (f : ℕ → M) {n : ℕ} (hn : 0 < n) :
```
Comment (ocfnash) [inline Mathlib/Algebra/BigOperators/Intervals.lean:147]:
```suggestion
theorem prod_range_eq_mul_Ico (f : ℕ → M) {n : ℕ} (hn : 0 < n) :
```

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 3]
```diff
@@ -120,6 +120,38 @@ theorem ext_of_lieSpan_eq_top (s : Set L) (hs : LieSubalgebra.lieSpan R L s = 
     (h : Set.EqOn D1 D2 s) : D1 = D2 :=
   ext fun _ => eqOn_lieSpan h <| hs.symm ▸ trivial
 
+/-- The general Leibniz rule for Lie derivatives. -/
+theorem pow_leibniz (D : LieDerivation R L L) (n : ℕ) (a b : L) :
+    D.toLinearMap^[n] ⁅a, b⁆ = ∑ i in Finset.range (n + 1),
+      Nat.choose n i • ⁅D.toLinearMap^[i] a, D.toLinearMap^[n - i] b⁆ := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:126]:
```suggestion
theorem iterate_apply_lie (D : LieDerivation R L L) (n : ℕ) (a b : L) :
    D^[n] ⁅a, b⁆ = ∑ i in Finset.range (n + 1), Nat.choose n i • ⁅D^[i] a, D^[n - i] b⁆ := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Lie/Derivation/Basic.lean (hunk 3 above)
Comment (callesonne) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean:126]: Brilliant! Yes, I much prefer using the antidiagonal, thanks for the suggestion!

Comment (callesonne) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean]: It's so much better now! I decided to keep the previous version also, since it seems one has to explicitly provide the function inside the sum when calling `Nat.sum_antidiagonal_eq_sum_range_succ` which can be annoying.

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 4]
```diff
@@ -120,6 +120,31 @@ theorem ext_of_lieSpan_eq_top (s : Set L) (hs : LieSubalgebra.lieSpan R L s = 
...
+    D^[n] ⁅a, b⁆ = ∑ ij in antidiagonal n, choose n ij.1 • ⁅D^[ij.1] a, D^[ij.2] b⁆ := by
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    rw [sum_antidiagonal_choose_succ_nsmul (M := L) (fun i j => ⁅(⇑D)^[i] a, (⇑D)^[j] b⁆) n]
+    simp only [Function.iterate_succ_apply', ih, map_sum, map_nsmul, apply_lie_eq_add, smul_add,
+      sum_add_distrib, add_right_inj]
+    apply sum_congr rfl
+    intro ij hij
+    rw [n.choose_symm_of_eq_add (HasAntidiagonal.mem_antidiagonal.1 hij).symm]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:138]: Nitpick:
```suggestion
    refine sum_congr rfl fun ⟨i, j⟩ hij ↦ ?_
    rw [n.choose_symm_of_eq_add (mem_antidiagonal.1 hij).symm]
```

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 5]
```diff
@@ -120,6 +120,31 @@ theorem ext_of_lieSpan_eq_top (s : Set L) (hs : LieSubalgebra.lieSpan R L s = 
...
+
+open Finset Nat
+
+/-- The general Leibniz rule for Lie derivatives. -/
+theorem iterate_apply_lie (D : LieDerivation R L L) (n : ℕ) (a b : L) :
+    D^[n] ⁅a, b⁆ = ∑ ij in antidiagonal n, choose n ij.1 • ⁅D^[ij.1] a, D^[ij.2] b⁆ := by
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    rw [sum_antidiagonal_choose_succ_nsmul (M := L) (fun i j => ⁅(⇑D)^[i] a, (⇑D)^[j] b⁆) n]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:133]:
```suggestion
    rw [sum_antidiagonal_choose_succ_nsmul (M := L) (fun i j => ⁅D^[i] a, D^[j] b⁆) n]
```

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 6]
```diff
@@ -120,6 +120,31 @@ theorem ext_of_lieSpan_eq_top (s : Set L) (hs : LieSubalgebra.lieSpan R L s = 
...
+      sum_add_distrib, add_right_inj]
+    apply sum_congr rfl
+    intro ij hij
+    rw [n.choose_symm_of_eq_add (HasAntidiagonal.mem_antidiagonal.1 hij).symm]
+
+/-- Alternate version of the general Leibniz rule for Lie derivatives. -/
+theorem iterate_apply_lie' (D : LieDerivation R L L) (n : ℕ) (a b : L) :
+    D^[n] ⁅a, b⁆ = ∑ i in range (n + 1), n.choose i • ⁅D^[i] a, D^[n - i] b⁆ := by
+  rw [iterate_apply_lie D n a b]
+  exact sum_antidiagonal_eq_sum_range_succ (fun i j => n.choose i • ⁅(⇑D)^[i] a, (⇑D)^[j] b⁆) n
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:144]:
```suggestion
  exact sum_antidiagonal_eq_sum_range_succ (fun i j ↦ n.choose i • ⁅D^[i] a, D^[j] b⁆) n
```

**Review by ocfnash — APPROVED** [review]
Thanks again.

It looks like the supporting lemmas (some merged, some part of this PR) are no longer needed but they're all worth having anyway.

Some style suggestions but still LGTM.

Feel free to merge once you're ready.
